US08283354B2
To (tert-butoxycarbonyl-methyl-amino)-acetic acid (2.73 g, 14.4 mmol) in 70 mL of THF was added sequentially diisopropyl ethylamine (7.5 mL, 14.4 mmol) and HBTU (5.47 g, 14.4 mmol), and the reaction mixture was stirred at room temperature for one hour. To this reaction mixture was added methylamino-acetic acid ethyl ester (2.22 g, 14.4 mmol) in one portion, and the reaction mixture was heated at 65° C. for 12 h. The reaction mixture was cooled, diluted with a solution of saturated NaHCO3, and extracted with EtOAc. The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid ethyl ester.

reactant | (tert-butoxycarbonyl-methyl-amino)-acetic acid | 14.4 mmol, 2.73 g | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
reactant | diisopropyl ethylamine | 14.4 mmol, 7.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 14.4 mmol, 5.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamino-acetic acid ethyl ester | 14.4 mmol, 2.22 g | C(C)OC(CNC)=O | C5H11NO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid ethyl ester | C(C)OC(CN(C)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C13H24N2O5
